US06716856B1
Preparation of 7-Methoxy-1-(2-pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole.
A solution of 0.1N silver nitrate in methanol (12 ml, 1.2 mmol) was added to a solution of 7-bromo-1-(2-pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole (0.2 g, 0.6 mmol), prepared as described in example 4, in acetone (12 ml). After stirring for about 48 hours, 6 ml of a 0.1N silver nitrate solution in methanol were added. The reaction mixture was stirred for further 72 hours and then filtered. The solvent was evaporated and the residue was chromatographed on silica gel (cyclohexane:ethyl acetate=90:10) to yield the title compound as a colourless solid (0.044 g, 25%): m.p. 86-89° C.

reactant | 7-bromo-1-(2-pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole | 0.6 mmol, 0.2 g | BrC1C(CC(C=2C(=NN(C12)C1=NC=CC=C1)C)=O)(C)C | C15H16BrN3O
reactant | acetone | 12 ml | CC(=O)C | C3H6O
solvent | methanol | CO | CH4O
catalyst | silver nitrate | 0.1N | [N+](=O)([O-])[O-].[Ag+]
catalyst | silver nitrate | 0.1N | [N+](=O)([O-])[O-].[Ag+]
solvent | methanol | 1.2 mmol, 12 ml | CO | CH4O
product | 7-Methoxy-1-(2-pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole | 0.044 g, 25% | COC1C(CC(C=2C(=NN(C12)C1=NC=CC=C1)C)=O)(C)C | C16H19N3O2
